US05218109
In 2 ml of tetrahydrofuran was dissolved 50 mg of 1α,3β-bis(methoxycarbonyloxy)-20-methyl-21-phenylsulfonylpregna-5,7-diene and the solution was cooled in a dry ice-acetone bath in an argon atmosphere. To the solution was added 0.4 ml of a solution of lithium diisopropylamide prepared from 2 ml of a 1.5N solution of butyllithium in hexane and 0.5 ml of diisopropylamine in 10 ml of tetrahydrofuran, and the resulting mixture was stirred at -30° C. for 30 minutes and then again cooled in a dry ice-acetone bath. A solution of 150 mg of isovaleraldehyde in 1 ml of tetrahydrofuran was added and the mixture was stirred for 4 hours while the mixture was gradually warmed to -30° C. A saturated aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was allowed to warm to ambient temperature. Diethyl ether was added to the reaction mixture and the organic layer was separated, the aqueous layer was extracted with diethyl ether. The organic layer was combined, washed in sequence with an aqueous solution of sodium hydrogen carbonate and an aqueous solution of sodium chloride, then dried over sodium sulfate and concentrated. The residue was purified by silica gel column chromatography to give 28 mg of 1α,3β-bis(methoxycarbonyloxy)-22-phenylsulfonylcholesta-5,7-dien-23-ol.

reactant | 1α,3β-bis(methoxycarbonyloxy)-20-methyl-21-phenylsulfonylpregna-5,7-diene | 50 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H](C(CS(=O)(=O)C5=CC=CC=C5)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C32H42O8S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | butyllithium | C(CCC)[Li]
reactant | isovaleraldehyde | 150 mg | C(CC(C)C)=O | C5H10O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | diisopropylamine | 0.5 ml | C(C)(C)NC(C)C | C6H15N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 1α,3β-bis(methoxycarbonyloxy)-22-phenylsulfonylcholesta-5,7-dien-23-ol | 28 mg | COC(=O)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC[C@H]([C@@H](C(C(CC(C)C)O)S(=O)(=O)C5=CC=CC=C5)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(=O)OC | C37H52O9S
